* Schematics Netlist *



R_R2         0 $N_0001  10k  
V_V1         $N_0002 0 12
V_V2         0 $N_0003 12
C_C1         $N_0004 $N_0005  0.01u  
C_C2         0 $N_0004  0.01u  
R_R5         0 $N_0004  15.9k  
R_R1         $N_0005 $N_0006  15.9k  
R_R3         $N_0001 $N_0006 {50k*0.5+.001}
R_R4         $N_0007 0  2.5k  
X_U1         $N_0004 $N_0001 $N_0002 $N_0003 $N_0007 uA741
