* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4002 
X_X1         0 $N_0002 $N_0003 $N_0004 $N_0005 $N_0002 $N_0001 $N_0004 555D
+  PARAMS: MAXFREQ=3E6
R_R3         $N_0003 0  1k  
R_R1         $N_0001 $N_0004  2.9k  
R_R2         $N_0002 $N_0001  5.8k  
C_C1         0 $N_0002  0.1u  
V_V1         $N_0004 0 5
C_C2         $N_0005 0  0.01u  
