* Schematics Netlist *



X_U1         $N_0001 $N_0002 $N_0003 $N_0004 $N_0005 uA741
V_V1         0 $N_0004 12
V_V2         $N_0003 0 12
R_R1         $N_0005 $N_0002  20k  
R_R2         $N_0002 0  10k  
R_R3         $N_0005 $N_0008  15.915k  
C_C1         $N_0008 $N_0009  0.01u  
R_R4         0 $N_0009  15.915k  
C_C2         0 $N_0001  0.01u  
