* Schematics Netlist *



X_U1         0 $N_0001 $N_0002 $N_0003 $N_0004 uA741
V_V1         $N_0002 0 12
V_V2         0 $N_0003 12
R_R5         $N_0001 $N_0004 {500k*0.5+.001}
R_R4         $N_0007 $N_0001  10k  
R_R1         0 $N_0008  1.6k  
R_R2         0 $N_0009  1.6k  
R_R3         0 $N_0007  1.6k  
C_C1         $N_0004 $N_0008  0.1u  
C_C2         $N_0008 $N_0009  0.1u  
C_C3         $N_0009 $N_0007  0.1u  
