* Schematics Netlist *



V_V1         $N_0001 0 12
V_V2         0 $N_0002 12
V_V4         $N_0003 0 12
V_V5         0 $N_0004 12
X_U1         $N_0005 0 $N_0001 $N_0002 $N_0006 uA741
C_C2         $N_0009 $N_0010  0.1uF  
X_U2         $N_0011 $N_0009 $N_0003 $N_0004 $N_0010 uA741
R_R1         $N_0006 $N_0005  10k  
R_R2         $N_0005 $N_0010  4.1667k  
V_V6         0 $N_0011 2.4
R_R4         $N_0006 $N_0009  11.52k  
