* Schematics Netlist *



X_U1         $N_0001 $N_0002 $N_0003 $N_0004 $N_0005 uA741
V_V3         $N_0008 0  
+PULSE 0 2 0 1ns 1ns 0.1us 
V_V1         $N_0003 0 12
V_V2         0 $N_0004 12
R_R11         $N_0005 $N_0001  11.64k  
R_R13         $N_0005 0  10k  
R_R14         $N_0005 $N_0002  12.5k  
R_R12         $N_0001 $N_0008  10k  
C_C1         0 $N_0002  0.01uF  
