* Schematics Netlist *



V_V1         $N_0001 0 5
R_R2         $N_0002 $N_0001  10k  
C_C1         0 $N_0002  0.1u  
C_C2         0 $N_0003  0.01u  
X_X1         0 $N_0004 $N_0005 $N_0001 $N_0003 $N_0002 $N_0002 $N_0001 555D
+  PARAMS: MAXFREQ=3E6
R_R1         0 $N_0005  1k  
V_V2         $N_0004 0  
+PULSE -5v 5v 0 2ns 2ns 50us 100us
