* Schematics Netlist *



Q_Q2         $N_0002 $N_0001 $N_0003 Q2N2222
Q_Q1         $N_0005 $N_0004 $N_0002 Q2N2222
R_R1         $N_0002 0 {1k*0.5+.001}
V_V1         $N_0004 0 DC 0V AC 5 
R_R2         0 $N_0001  2.26K  
V_V2         $N_0005 0 12
V_V3         0 $N_0003 12
D_D2         $N_0001 $N_0003 D1N4002 
