* Schematics Netlist *



Q_Q2         $N_0002 $N_0001 $N_0003 Q2N2222
V_V3         0 $N_0003 12
R_R1         $N_0003 $N_0002  4  
R_R2         0 $N_0004  680  
V_V1         $N_0001 $N_0003  
+SIN 0 5 1000 0 0 0
V_V2         $N_0005 0 12
Q_Q4         $N_0004 $N_0004 $N_0005 Q2N2907A
Q_Q7         $N_0002 $N_0004 $N_0005 Q2N2907A
