* Schematics Netlist *



R_R2         $N_0002 $N_0001  10k  
V_V3         0 $N_0003 12V
V_V1         $N_0004 0 DC 0 AC 0
+SIN 0 12 100 0 0 0
V_V2         $N_0005 0 12V
X_U1         $N_0001 $N_0006 $N_0005 $N_0003 $N_0007 uA741
R_R3         $N_0001 $N_0007  110k  
R_R1         $N_0004 $N_0006  9.167k  
V_V4         $N_0002 0 -3.2727
