* Schematics Netlist *



X_U2         $N_0001 $N_0002 $N_0003 $N_0004 $N_0005 uA741
R_R5         0 $N_0008  10k  
R_R7         0 $N_0002  10k  
V_V4         $N_0003 0 12
V_V5         0 $N_0004 12
V_V2         $N_0009 0 12
V_V3         0 $N_0010 12
R_R2         $N_0011 $N_0001  15.9k  
R_R4         $N_0012 0  15.9k  
C_C1         $N_0011 $N_0005  10p  
C_C2         $N_0001 0  10p  
R_R8         $N_0002 $N_0005  10k  
C_C4         $N_0013 3_7n  6.3n  
C_C3         3_7n $N_0012  1n  
R_R3         3_7n $N_0014  15.9k  
R_R10         0 $N_0011  157k  
R_R6         $N_0008 $N_0014  30k  
X_U1         $N_0012 $N_0008 $N_0009 $N_0010 $N_0014 uA741
R_R1         $N_0014 $N_0011  17.69k  
C_C6         0 3_7n  3.7n  
V_V1         0 $N_0013 DC 0V AC 1 
