* Schematics Netlist *



R_R5         0 $N_0001  10k  
R_R1         $N_0003 $N_0002  15.9k  
X_U1         $N_0004 $N_0001 $N_0005 $N_0006 $N_0002 uA741
V_V2         0 $N_0006 12V
V_V1         $N_0005 0 12V
C_C3         0 $N_0004  0.01u  
R_R2         0 $N_0004  15.9k  
C_C1         $N_0004 $N_0003  0.01u IC=2 
R_R6         0 $N_0002  2.5k  
R_R8         $N_0001 $N_0002  20k  
