* Schematics Netlist *



C_C2         $N_0001 $N_0002  0.01u  
R_R1         $N_0002 $N_0003  15.9k  
R_R2         $N_0003 0  2.5k  
X_U1         $N_0001 $N_0004 $N_0005 $N_0006 $N_0003 uA741
R_R4         0 $N_0004  10k  
V_V1         $N_0005 0 12v
V_V2         0 $N_0006 12k
C_C1         0 $N_0001  0.01u  
R_R5         0 $N_0001  15.9k  
R_R3         $N_0004 $N_0003  20k  
