* Schematics Netlist *



X_U1         $N_0001 $N_0002 $N_0003 $N_0004 $N_0005 uA741
V_V3         0 $N_0004 12
V_V2         $N_0003 0 12
R_R1         $N_0008 $N_0001  10k  
V_V1         $N_0002 0 DC 0 AC 0
+SIN 0 12 100 0 0 0
R_R3         $N_0001 $N_0005  3.3k  
V_V4         $N_0008 0 -1.334
