* Schematics Netlist *



X_U1         $N_0001 0 $N_0002 $N_0003 $N_0004 uA741
X_U2         0 $N_0007 $N_0008 $N_0009 $N_0010 uA741
V_V3         $N_0008 0 12
V_V5         0 $N_0009 12
V_V1         $N_0002 0 12
V_V2         0 $N_0003 12
R_R1         $N_0010 $N_0001  10k  
R_R3         $N_0004 $N_0007  3.57k  
R_R2         $N_0004 $N_0001  17.502k  
C_C1         $N_0007 $N_0010  0.01uF  
