* Schematics Netlist *



R_R3         0 $N_0001  1k  
X_X1         0 $N_0002 $N_0001 $N_0003 $N_0004 $N_0002 $N_0005 $N_0003 555D
+  PARAMS: MAXFREQ=3E6
C_C2         $N_0004 0  0.01u  
C_C1         0 $N_0002  0.1u  
R_R2         $N_0002 $N_0005  5.8K  
R_R1         $N_0005 $N_0003  2.9K  
V_V1         $N_0003 0 5v
D_D2         $N_0005 $N_0002 D1N4002 
