* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4002 
D_D1         $N_0003 $N_0001 D1N4002 
X_U1         0 $N_0004 $N_0005 $N_0006 $N_0001 uA741
X_U2         $N_0002 $N_0009 $N_0010 $N_0011 $N_0012 uA741
V_V4         $N_0010 0 12
V_V5         0 $N_0011 12
V_V3         0 $N_0006 12
V_V2         $N_0005 0 12
R_R1         $N_0015 $N_0004  10k  
R_R2         $N_0004 $N_0003  10k  
R_R4         $N_0004 $N_0002  10k  
R_R3         $N_0003 $N_0009  10k  
V_V1         $N_0015 0 DC 0 AC 0
+SIN 0 5 1k 0 0 0
R_R5         $N_0009 $N_0012  10k  
