* Schematics Netlist *



D_D2         $N_0001 $N_0002 D1N4002 
R_R2         $N_0004 $N_0003  1k  
X_U1         0 $N_0003 $N_0005 $N_0006 $N_0001 uA741
R_R1         $N_0003 $N_0002  2k  
V_V2         $N_0005 0 12
V_V3         0 $N_0006 12
D_D1         $N_0003 $N_0001 D1N4002 
V_V1         $N_0004 0 DC 0 AC 0
+SIN 0 2.5 1000 0 0 0
