* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
X_U1         $N_0003 $N_0002 $N_0004 $N_0005 $N_0001 uA741
C_C2         0 $N_0003  0.01u  
R_R1         $N_0008 $N_0003  15.9k  
R_R2         $N_0009 $N_0008  15.9k  
C_C1         $N_0001 $N_0008  0.01u  
V_V2         $N_0004 0 12
V_V3         0 $N_0005 12
R_R4         0 $N_0002  1k  
V_V4         $N_0009 0 DC 0V AC 2V 
