* Schematics Netlist *



D_D1         $N_0001 $N_0002 D1N4002 
X_U1         $N_0003 $N_0002 $N_0004 $N_0005 $N_0001 uA741
X_U2         $N_0002 $N_0008 $N_0009 $N_0010 $N_0008 uA741
C_C1         0 $N_0002  1u  
R_R1         0 $N_0002  10k  
V_V1         $N_0003 0 DC 0 AC 0
+SIN 0 1 1k 0 0 0
V_V3         $N_0004 0 12
V_V2         0 $N_0005 12
V_V4         $N_0009 0 12
V_V5         0 $N_0010 12
