* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
R_R2         $N_0001 $N_0003  11k  
V_V3         0 $N_0004 12
V_V4         $N_0005 0 12
V_V2         $N_0006 0 DC 0 AC 0
+SIN 0 5 1000 0 0 0
X_U3         $N_0001 $N_0006 $N_0005 $N_0004 $N_0003 uA741
V_V1         $N_0002 0 1.1
