* Schematics Netlist *



R_R1         $N_0002 $N_0001  15.9k  
V_V1         $N_0003 0 12
V_V2         0 $N_0004 12
C_C1         $N_0005 $N_0002  0.01u  
X_U1         $N_0005 $N_0006 $N_0003 $N_0004 $N_0001 uA741
R_R13         $N_0001 0  2.5k  
R_R14         $N_0006 $N_0001  20k  
R_R15         0 $N_0005  15.9k  
C_C3         0 $N_0005  0.01u  
R_R4         0 $N_0006  10k  
